US08034812B2
Production of 4-chloro-3-{[(1,3-dimethyl-1H-pyrazol-5-yl)methyl]amino}phenol
In the same manner as in Reference Example 23 and using 3-amino-4-chlorophenol (920 mg, 6.4 mmol), 1,3-dimethyl-1H-pyrazole-5-carbonylchloride (1170 mg, 7.4 mmol) and N,N-dimethylacetamide (13 mL) as starting materials, N-(2-chloro-5-hydroxyphenyl)-1,3-dimethyl-1H-pyrazole-5-carboxamide (1190 mg, 4.5 mmol) was obtained. Using lithium aluminum hydride (1060 mg, 22 mmol), N-(2-chloro-5-hydroxyphenyl)-1,3-dimethyl-1H-pyrazole-5-carboxamide (1190 mg, 4.5 mmol) and tetrahydrofuran (40 mL) as starting materials, the title compound (810 mg, 72%) was obtained as a brown solid.

reactant | lithium aluminum hydride | 22 mmol, 1060 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | N-(2-chloro-5-hydroxyphenyl)-1,3-dimethyl-1H-pyrazole-5-carboxamide | 4.5 mmol, 1190 mg | ClC1=C(C=C(C=C1)O)NC(=O)C1=CC(=NN1C)C | C12H12ClN3O2
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | 4-chloro-3-{[(1,3-dimethyl-1H-pyrazol-5-yl)methyl]amino}phenol | 810 mg, 72% | ClC1=C(C=C(C=C1)O)NCC1=CC(=NN1C)C | C12H14ClN3O
